US07098212B2
(5-Chloro-2-hydroxy-phenyl)-methanesulfonamide
To a suspension of (5-chloro-2-methoxy-phenyl)-methanesulfonamide (0.03 g, 0.13 mmol) in dichloroethane (1.5 mL) was added boron tribromide solution (1M in dichloromethane, 0.26 mL, 0.26 mmol). The reaction was stirred for one hour at ambient temperature. The reaction was quenched with water, saturated with sodium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated to give the title compound (0.025 g).

reactant | (5-chloro-2-methoxy-phenyl)-methanesulfonamide | 0.13 mmol, 0.03 g | ClC=1C=CC(=C(C1)CS(=O)(=O)N)OC | C8H10ClNO3S
reactant | boron tribromide | 0.26 mmol, 1M, 0.26 mL | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | (5-Chloro-2-hydroxy-phenyl)-methanesulfonamide | 0.025 g | ClC=1C=CC(=C(C1)CS(=O)(=O)N)O | C7H8ClNO3S
